US05270310
N,N-Diethyl-N'-hexadecanoyl-1,3-propanediamine hydrochloride (10, hydrochloride salt)
To a solution of N,N-diethyl-N'-hexadecanoyl-1,3-propanediamine (10.9 g, 29.6 mmole) in diethyl ether was added an ethereal solution of hydrogen chloride. The reaction mixture was placed in the refrigerator overnight. The precipitate was filtered to give the title compound (8.60 g, 65%) as a pasty solid. 1H NMR (300 MHz, CDCl3): δ0.855 (3H, t, J=6.7 Hz), 1.229 (24H, bs), 1.367 (3H, bs), 1.626 (2H, bs), 2.08 to 2.10 (2H, m), 3.153 (6H, bs), 3.414 (2H, bs), and 6 32 to 6.36 (1H, bs). Analysis calculated for C23H46N2O.1.4 HCl.1.5 H2O: C, 62.12; H, 11.42; N, 6.29; Cl, 11.16. Found: C, 62.50; H, 11.52; N, 6.31; Cl, 11.28.

reactant | N,N-diethyl-N'-hexadecanoyl-1,3-propanediamine | 29.6 mmole, 10.9 g | C(C)N(CCCNC(CCCCCCCCCCCCCCC)=O)CC | C23H48N2O
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | N,N-Diethyl-N'-hexadecanoyl-1,3-propanediamine hydrochloride | 8.60 g, 65% | Cl.C(C)N(CCCNC(CCCCCCCCCCCCCCC)=O)CC | InChI=1S/C23H48N2O.ClH/c1-4-7-8-9-10-11-12-13-14-15-16-17-18-20-23(26)24-21-19-22-25(5-2)6-3;/h4-22H2,1-3H3,(H,24,26);1H
